US05508461
The 1-(3,4-dimethoxyphenyl)-2-propanol obtained above was subjected to sulfonylation by p-toluenesulfonyl chloride and reacted with benzylamine to give N-benzyl-3,4-dimethoxyamphetamine. The resultant compound was converted into 3,4-dimethoxyamphetamine by hydrogenation decomposition under hydrogen atmosphere with 5% Pd-C.

reactant | 1-(3,4-dimethoxyphenyl)-2-propanol | COC=1C=C(C=CC1OC)CC(C)O | C11H16O3
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-3,4-dimethoxyamphetamine | C(C1=CC=CC=C1)NC(C)CC1=CC(=C(C=C1)OC)OC | C18H23NO2
